US04908357
Under a dry nitrogen atmosphere, 1.6 ml of a 2.5 M solution of n-butyllithium in n-hexane was added dropwise to a stirred, cold (-78° C.) solution of 1.0 g (0.0032 mole) of 2-(4-trifluoromethylphenyl)-5-thien-2-ylthiazole in 15 ml of tetrahydrofuran. This mixture was stirred at -78° C. for two hours and then was added to a stirred, cold (-78° C.) solution of 0.70 g (0.0064 mole) of ethylchloroformate in 20 ml of tetrahydrofuran. After complete addition the mixture was allowed to warm to room temperature and was stirred for approximately 18 hours. The mixture was diluted with 100 ml of diethyl ether and was washed in succession with an aqueous, saturated ammonium chloride solution, water, and an aqueous, saturated sodium chloride solution. The organic phase was dried over anhydrous magnesium sulfate and was filtered. The filtrate was evaporated under reduced pressure, leaving a solid. This solid was purified by column chromatography on silica gel, eluting with methylene chloride:n-hexane (60:40) to yield 0.56 g of 5-(5-ethoxycarbonylthien-2-yl)-2-(4-trifluoromethylphenyl)thiazole as a solid, compound 1 of Table 1.

reactant | n-butyllithium | C(CCC)[Li]
reactant | 2-(4-trifluoromethylphenyl)-5-thien-2-ylthiazole | 0.0032 mole, 1.0 g | FC(C1=CC=C(C=C1)C=1SC(=CN1)C=1SC=CC1)(F)F | C14H8F3NS2
reactant | ethylchloroformate | 0.0064 mole, 0.70 g | C(C)OC(=O)Cl | C3H5ClO2
solvent | n-hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 5-(5-ethoxycarbonylthien-2-yl)-2-(4-trifluoromethylphenyl)thiazole | 0.56 g | C(C)OC(=O)C1=CC=C(S1)C1=CN=C(S1)C1=CC=C(C=C1)C(F)(F)F | C17H12F3NO2S2
